US06432921B1
Cyclo-octylmethyl Bromide
Cyclooctylmethanol (8.16 g) was dissolved in 47% HBr-solution (70 ml) and refluxed for 1 hour at 130° C. The reaction mixture was poured onto icewater (500 ml) and saturated sodium hydrogencarbonate solution (500 ml) was added. The aqueous solution was extracted with dichloromethane. The combined organic phases were washed with water, brine and dried over sodium sulfate, filtered and concentrated in vacuo. The residue was chromatographed on silica gel in toluene as eluent. The fractions containing cyclo-octylmethyl bromide were pooled and evaporated. Yield: 9.85 g. TLC: Rf=0.95, silica gel, toluene

reactant | Cyclooctylmethanol | 8.16 g | C1(CCCCCCC1)CO | C9H18O
reactant | sodium hydrogencarbonate | 500 ml | C(O)([O-])=O.[Na+]
reactant | HBr | 70 ml | Br | BrH
product | Cyclo-octylmethyl Bromide | C1(CCCCCCC1)CBr | C9H17Br
